US05688803
0.27 g (0.0010 mol) of 4-azidomethyl-2-hydroxy-quinoline-3-carboxylate was dissolved in 20 ml of hot dimethylformamide and treated with 14 mg of 10% Pd/C. A stream of hydrogen was introduced slowly during 11/2 hrs. The suspension was filtered under argon and the filtrate was partially concentrated under a high vacuum. The residue was treated with 25 ml of de-gassed ethanol, filtered off, dried in a vacuum and there were obtained ~60 mg (30%) of 4-hydroxy-2,3-dihydro-1 H-pyrrolo[3,4-c]quinolin-3-one as an air-sensitive, grey solid. The mother liquor was concentrated totally. The residue was dissolved in 75 ml of methanol and a stream of oxygen was conducted in slowly during 21/2 hrs. The mixture was filtered, concentrated, chromatographed over silica gel with ethyl acetate/methanol 9:1 as the eluent and the product was recrystallized from hot ethyl acetate. Yield: 0.033 g (15%) of 4-hydroxy-2,3-dihydro-1H-pyrrolo[3,4-c]-quinoline-1,3-dione as yellow crystals; m.p. 340°-350° C. (dec., subl.).

reactant | 4-azidomethyl-2-hydroxy-quinoline-3-carboxylate | 0.0010 mol, 0.27 g | N(=[N+]=[N-])CC1=C(C(=NC2=CC=CC=C12)O)C(=O)[O-]
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | Pd/C | 14 mg | [Pd] | Pd
product | 4-hydroxy-2,3-dihydro-1 H-pyrrolo[3,4-c]quinolin-3-one | ~60 mg, 30% | OC1=NC=2C=CC=CC2C2=C1C(NC2)=O | C11H8N2O2
